.INCLUDE magnz.hl

.SUBCKT iadd2 A B C
  VA A 0 DC 5
  VB B 0 DC 5
  BSUM C 0 I=I(VA) + I(VB)

  *XNOISE CNN CR vnoise
  *XCLMP CR C vclamp
.ENDS iadd2

.SUBCKT imul2 A B C
   VA A 0 DC 5
   VB B 0 DC 5
   BSUM C 0 I=I(VA)*I(VB)

   *XNOISE CNN CR vnoise
   *XCLMP CR C vclamp
.ENDS imul2

.SUBCKT iout A B
  RX A B 0
.ENDS iout


.SUBCKT iin A B
  RX A B 0
.ENDS iin
